US07875645B2
1,3-Dicyclopropyl-2-(2,2-dibromo-vinyl)-benzene was prepared from 2,6-dicyclopropyl-benzaldehyde, carbon tetrabromide and triphenylphosphine in analogy to Example 1d): colourless oil; MS (EI): 343.9 (14%), 342.0 (24%) and 340.0 (14%) (M+), 182.2 ([M-2Br]+, 66%), 167.2 ([M-2Br—CH3)+, 100%).

reactant | 2,6-dicyclopropyl-benzaldehyde | C1(CC1)C1=C(C=O)C(=CC=C1)C1CC1 | C13H14O
reactant | carbon tetrabromide | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | 1,3-Dicyclopropyl-2-(2,2-dibromo-vinyl)-benzene | C1(CC1)C1=C(C(=CC=C1)C1CC1)C=C(Br)Br | C14H14Br2
